US05334716
A mixture of ethyl 4-[3-(4-hydroxybenzoyl]indolizin-1-yl]butyrate (400 mg), bis(4-isobutylphenyl)chloromethane (430 mg) and diisopropylethylamine (736 mg) in dichloromethane (20 ml) was refluxed for 14 hours and evaporated. The residue was dissolved in ethyl acetate. The solution was washed with water and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel eluting with n-hexane and ethyl acetate (4:1) to give ethyl 4-[3-[4-[bis(4-isobutylphenyl)methoxy]benzoyl]indolizin-1-yl]butyrate (158 mg) as an oil.

reactant | ethyl 4-[3-(4-hydroxybenzoyl]indolizin-1-yl]butyrate | 400 mg | OC1=CC=C(C(=O)C2=CC(=C3C=CC=CN23)CCCC(=O)OCC)C=C1 | C21H21NO4
reactant | bis(4-isobutylphenyl)chloromethane | 430 mg | C(C(C)C)C1=CC=C(C=C1)C(Cl)C1=CC=C(C=C1)CC(C)C | C21H27Cl
reactant | diisopropylethylamine | 736 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 4-[3-[4-[bis(4-isobutylphenyl)methoxy]benzoyl]indolizin-1-yl]butyrate | 158 mg | C(C(C)C)C1=CC=C(C=C1)C(OC1=CC=C(C(=O)C2=CC(=C3C=CC=CN23)CCCC(=O)OCC)C=C1)C1=CC=C(C=C1)CC(C)C | C42H47NO4
